US04997950
5.5.1 Preparation of t-Butyloxycarbonyl-N-Methyl-L-Leucine (Boc-N-Me-Leu)
This was prepared by the method of Cheung and Benoitin (1977). In brief, Boc-L-leucine (5 g, 21.6 mmol) and methyl iodide (24.6 g, 172.8 mmol) were dissolved in anhydrous tetrahydrofuran (30 ml) and chilled to 0° C. Sodium hydride (0.26 g, 32.4 mmol) was added slowly with vigorous stirring to the solution over a period of 10 minutes. The reaction was allowed to proceed for a further 24 hours at room temperature. Ethyl acetate (50 ml) followed by water (20 ml) was added and the solution was reduced to dryness in vacuo. The residue was partitioned between diethyl (50 ml) and water (50 ml). The aqueous layer was removed and the organic layer was washed with 5% NaHCO3 (50 ml). The aqueous extracts were combined and acidified by the addition of 5% NaHSO4. The product was extracted into ethyl acetate (100 ml) and washed successively with water (2×50 ml), 10% Na2S2O3 (2×50 ml) and water (100 ml). The organic layer was dried over magnesium sulphate and reduced to dryness. The product was obtained as a pale yellow oil which solidified at -20° C. Yield 4.69 g (88%), m.p. 53°-55° C. (lit. 56°-57° C., Cheung and Benoiton, 1977). The product was homogeneous as judged by tlc in chloroform/methanol (4:1) (Rf 0.375) or chloroform/methanol (1:1) (Rf 0.683). (Found: C, 58.47; H, 9.19; N, 5.71. C12H23O4N1 requires C, 59.77; H, 9.38; N, 5.71%). 1H n.m.r. (p.p.m) CDCl3 δ 0.98 (6H, α, (CH3)2), 1.5 (9H, s, C(CH3)3), 1.82 (3H, m, CH2CH), 2.84 (3H, s, N--CH3), 9.94 (1H, s, COOH).

reactant | Boc-L-leucine | 21.6 mmol, 5 g | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C(=O)O | C11H21NO4
reactant | methyl iodide | 172.8 mmol, 24.6 g | CI | CH3I
reactant | Sodium hydride | 32.4 mmol, 0.26 g | [H-].[Na+]
reactant | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | water | 20 ml | O | H2O
product | t-Butyloxycarbonyl-N-Methyl-L-Leucine | C(C)(C)(C)OC(=O)N([C@@H](CC(C)C)C(=O)O)C | C12H23NO4
